US07456211B2
(R)-3-Hydroxymethylheptanoic acid, (S)-1-phenylethylamide (8.4 g, 31.9 mmol) was dissolved in 1 M H2SO4/dioxane (1:1, 110 mL) and the resulting solution was refluxed overnight under argon. After cooling to rt, the reaction mixture was diluted with ethyl acetate/hexanes (1:3, 200 mL) and washed with water (2×100 mL), saturated aq. NaHCO3 (2×100 mL), and brine (100 mL). The solution was dried (Na2SO4), filtered, and concentrated to afford pure (R)-4-butyldihydrofuran-2-one as a colorless oil (3.5 g, 78%).

reactant | (R)-3-Hydroxymethylheptanoic acid, (S)-1-phenylethylamide | 31.9 mmol, 8.4 g | C1(=CC=CC=C1)[C@H](C)NC(C[C@@H](CCCC)CO)=O | C16H25NO2
solvent | H2SO4 dioxane | 1 M, 110 mL | OS(=O)(=O)O.O1CCOCC1
product | (R)-4-butyldihydrofuran-2-one | 3.5 g, 78% | C(CCC)[C@@H]1CC(OC1)=O | C8H14O2
